US06777421B2
To a cold (0° C.) mixture of Boc 3-carboxymethyl-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (3.893 g, 0.010 mol), and potassium carbonate sesquihydrate (6.606 g, 0.040 mol) in DMF (20 mL) was added diphenylphosphoryl azide (3.03 mL, 14.0 mmol) and methyl isocyanoacetate (1.9 mL, 20.9 mmol). The reaction mixture was stirred for 1 day at room temperature. The reaction was then diluted with aq NaCl and extracted with CHCl3 (150 mL). The organic solution was dried over Na2SO4, filtered and concentrated to a brown oil. The crude product was purified by flash chromatography twice (2% MeOH in CHCl3) to yield 3-(4-methoxycarbonyl-oxazol-5-ylmethyl)-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]decane-8-carboxylic acid-t-butyl ester as a tacky solid.

reactant | Boc 3-carboxymethyl-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 0.010 mol, 3.893 g | C(=O)(OC(C)(C)C)C1N(C2(C(N1CC(=O)O)=O)CCNCC2)C2=CC=CC=C2 | C20H27N3O5
reactant | potassium carbonate sesquihydrate | 0.040 mol, 6.606 g | O.C([O-])([O-])=O.[K+].O.O.[K+].[K+].[K+].C([O-])([O-])=O
reactant | diphenylphosphoryl azide | 14.0 mmol, 3.03 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | methyl isocyanoacetate | 20.9 mmol, 1.9 mL | [N+](#[C-])CC(=O)OC | C4H5NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | NaCl | [Na+].[Cl-]
product | 3-(4-methoxycarbonyl-oxazol-5-ylmethyl)-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]decane-8-carboxylic acid-t-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)CC2=C(N=CO2)C(=O)OC)=O)CC1 | C24H30N4O6
